US06448277B2
(iii) 2-Amino-N-(4-methylphenyl)-6-methylbenzamide, hydrochloride
A stirred solution of N-(4-methylphenyl)-2-([(1,1-dimethylethoxy)carbonyl]amino]-6-methyl-benzamide (1.67 g, 4.90 mmol) in methanol (4 mL) under an argon atmosphere, is treated with a saturated solution of hydrogen chloride in dioxane (30 mL) and stirred at 180° C. for 210 minutes.

reactant | N-(4-methylphenyl)-2-([(1,1-dimethylethoxy)carbonyl]amino]-6-methyl-benzamide | 4.90 mmol, 1.67 g | CC1=CC=C(C=C1)NC(C1=C(C=CC=C1C)NC(=O)OC(C)(C)C)=O | C20H24N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2-Amino-N-(4-methylphenyl)-6-methylbenzamide, hydrochloride | Cl.NC1=C(C(=O)NC2=CC=C(C=C2)C)C(=CC=C1)C | InChI=1S/C15H16N2O.ClH/c1-10-6-8-12(9-7-10)17-15(18)14-11(2)4-3-5-13(14)16;/h3-9H,16H2,1-2H3,(H,17,18);1H
